.title KiCad schematic
.include "../spicelibs/elk.lib"
* LTspice kompatible Befehle
.param L_var=2.7u
.param R_var=20k
.param C_var=80p
*.step param C_var 60p 110p 10p
.tran 10n 100u startup

* Bauteile
R_dummy /CS 0 1G
R1 /Drain_Q2 /Drain_Q1 {R_var}
I1 /CS 0 DC 1m
XQ2 /Drain_Q2 /Drain_Q1 /CS BS170/PLP
XQ1 /Drain_Q1 /Drain_Q2 /CS BS170/PLP
V1 VDD 0 DC 5
C2 /Drain_Q2 /Drain_Q1 {C_var}
L1 /Drain_Q2 VDD {L_var}
L2 VDD /Drain_Q1 {L_var}

.save V(/Drain_Q1) V(/Drain_Q2)
.end




